US05719152
7) 9-Bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
To a mixture of 20% aqueous titanium trichloride (670 g, 0.867 mol), water (500 mL), and acetone (500 mL) was added dropwise a solution of 6-bromo-2-methoxycarbonylmethyl-8-nitro-N-ethoxalyltetrahydroquinoline (52.0 g, 0.121 mol) in acetone (600 mL) at 0° C. The mixture was stirred overnight at room temperature, concentrated to ca. 1 L and diluted with water (1 L). The precipitates formed were collected by filtration, washed with water, and dried in vacuo to give 35.2 g of the title compound. The filtrate was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with ethyl acetate to give 6.0 g of the title compound (total 89%).

reactant | water | 500 mL | O | H2O
reactant | 6-bromo-2-methoxycarbonylmethyl-8-nitro-N-ethoxalyltetrahydroquinoline | 0.121 mol, 52.0 g | BrC=1CC2CCC(N(C2=C(C1)[N+](=O)[O-])C(=O)C(=O)OCC)CC(=O)OC | C16H19BrN2O7
solvent | acetone | 600 mL | CC(=O)C | C3H6O
catalyst | titanium trichloride | 0.867 mol, 670 g | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 9-Bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 35.2 g | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)OC | C14H13BrN2O4
